US06610704B1
Preparation of N3-(4-Methoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-2,3-pyridinediamine
Using a similar procedure to that described in Example 2, Part D, N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-2,3-pyridinediamine (300 mg, 1.06 mmol) and 4-methoxybenzoyl chloride (200 mg, 1.17 mmol) yielded 67 mg (15%) of the title compound.

reactant | N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-2,3-pyridinediamine | 1.06 mmol, 300 mg | N1=CC=C(C=C1)N1CCC(CC1)CNC1=NC=CC=C1N | C16H21N5
reactant | 4-methoxybenzoyl chloride | 1.17 mmol, 200 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N3-(4-Methoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-2,3-pyridinediamine | 67 mg, 15% | COC1=CC=C(C(=O)NC=2C(=NC=CC2)NCC2CCN(CC2)C2=CC=NC=C2)C=C1 | C24H27N5O2
